US07053099B1
b) 2-Phenoxy-6-(2,6-difluorophenylamino)benzonitrile
Sodium phenoxide was generated by dissolving phenol (0.25 g, 2.7 mmol) in dry tetrahydrofuran (5 mL), and adding sodium hydride (0.065 g, 2.7 mmol). After gas evolution ceased, the solvent was evaporated and 2-fluoro-6-(2,6-difluorophenylamino)benzonitrile (0.335 g, 1.35 mmol) dissolved in dimethyl sulfoxide (5 mL) was added. The mixture was heated to 110° C. while stirring under argon. The solvent was evaporated in vacuo, and the residue was partitioned between ethyl acetate and water. The organic phase was washed with water (5×), brine(1×), dried over anhydrous Na2SO4, filtered, and evaporated to give the crude product which was then chromatographed on silica gel eluted with 0–40% CH2Cl2 in hexane to give the title compound as a white amorphous solid. mp 150–153° C.

reactant | Sodium phenoxide | [O-]C1=CC=CC=C1.[Na+]
reactant | phenol | 2.7 mmol, 0.25 g | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 2.7 mmol, 0.065 g | [H-].[Na+]
reactant | 2-fluoro-6-(2,6-difluorophenylamino)benzonitrile | 1.35 mmol, 0.335 g | FC1=C(C#N)C(=CC=C1)NC1=C(C=CC=C1F)F | C13H7F3N2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 2-Phenoxy-6-(2,6-difluorophenylamino)benzonitrile | O(C1=CC=CC=C1)C1=C(C#N)C(=CC=C1)NC1=C(C=CC=C1F)F | C19H12F2N2O
